US06617339B1
3-(4-(4-Oxopiperidin-1-yl)-3-fluorophenyl)-5(R)-(isoxazol-3-yloxymethyl)oxazolidin-2-one
3-(4-(1,4-Dioxa-8-azaspiro[4,5]decan-8-yl)-3-fluorophenyl)-5(R)-(isoxazol-3-yloxymethyl)oxazolidin-2-one (3.58 g, 8.52 mmol) was dissolved in a mixture of glacial acetic acid (50 ml) and water (50 ml), and heated at 50° for 12 hours. Solvent was evaporated, the residue azeotroped with toluene (50 ml), then partitioned between EtOAc (150 ml) and water (100 ml). The organic layer was washed with saturated aqueous sodium bicarbonate solution (2×100 ml), water (100 ml), dried (magnesium sulfate) and evaporated. The residue was purified by chromatography on a 90 g silica Biotage column eluting with a gradient from 5:1 EtOAc to isohexane to EtOAc. Relevant fractions were combined to give the desired product (2.84 g).

reactant | 3-(4-(1,4-Dioxa-8-azaspiro[4,5]decan-8-yl)-3-fluorophenyl)-5(R)-(isoxazol-3-yloxymethyl)oxazolidin-2-one | 8.52 mmol, 3.58 g | O1CCOC12CCN(CC2)C2=C(C=C(C=C2)N2C(O[C@H](C2)COC2=NOC=C2)=O)F | C20H22FN3O6
solvent | acetic acid | 50 ml | C(C)(=O)O | C2H4O2
solvent | water | 50 ml | O | H2O
product | 3-(4-(4-Oxopiperidin-1-yl)-3-fluorophenyl)-5(R)-(isoxazol-3-yloxymethyl)oxazolidin-2-one | 2.84 g | O=C1CCN(CC1)C1=C(C=C(C=C1)N1C(O[C@H](C1)COC1=NOC=C1)=O)F | C18H18FN3O5
